### PR TITLE
Add Erdős Problem 803 (balanced subgraphs with n log n edges), link the formal proof

### LINKED ISSUE #6364: Erdős Problem 803
### What is the Erdős problem?

https://www.erdosproblems.com/803

We call a graph $H$ $D$-balanced if the maximum degree of $H$ is at most $D$ times the minimum degree of $H$. Is it true that for every $m\geq 1$, if $n$ is sufficiently large, any graph on $n$ vertices with $\geq n\log n$ edges contains a $O(1)$-balanced subgraph with $m$ vertices and $\gg m\log m$ edges (where the implied constants are absolute)?

Status: disproved (Alon [Al08]). A formal proof exists in plby/lean-proofs (`Erdos803.not_erdos_803`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6364.

### What changed
Adds `FormalConjectures/ErdosProblems/803.lean`, using the existing `SimpleGraph.IsBalanced` (as in `1077.lean`):
- `erdos_803` (`research solved`, `answer(False)`): no absolute constants `D, c` make every `n`-vertex graph with `≥ n log n` edges contain a `D`-balanced `m`-vertex subgraph with `≥ c m log m` edges (Alon [Al08]). Linked to plby/lean-proofs `Erdos803.not_erdos_803` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).
- Sorry'd literature variants: Alon's quantitative counterexample (`≪ m √log m + log D` edges) and the Janzer–Sudakov positive result.

### How checked
- Rebuilt plby's closure against this repo's Mathlib (plby's copy of `SimpleGraph.IsBalanced` replaced by this repo's identical definition): `#print axioms Erdos803.not_erdos_803` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby additionally assumes `D ≥ 1`; the bridge passes to `max D 1`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real SimpleGraph

namespace Bridge803

theorem erdos_803_bridge : type_of% Erdos803.erdos_803 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨D, c, hc, h⟩
  apply Erdos803Plby.not_erdos_803
  refine ⟨c, hc, max D 1, le_max_right _ _, fun m hm => ?_⟩
  filter_upwards [h m hm] with n hn
  intro G hG
  obtain ⟨H, hcard, hbal, hedges⟩ := hn G hG
  refine ⟨H, hcard, ?_, hedges⟩
  classical
  unfold SimpleGraph.IsBalanced at hbal ⊢
  refine hbal.trans ?_
  gcongr
  exact le_max_left _ _

#print axioms Erdos803Plby.not_erdos_803
#print axioms erdos_803_bridge

end Bridge803
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«803»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/803.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/803.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
